US07589232B2
Step b) Formation of 5-[{4-[(4-butylphenyl)ethynyl]benzyl}(3,3-dimethylbutanoyl)amino]-2-hydroxybenzoic acid
The titled compound was prepared following the procedure C using N-{4-[(4-butylphenyl)ethynyl]benzyl}-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)-3,3-dimethylbutanamide and aqueous NaOH (1M) in the presence of EtOH as a white powder (36%). 1H NMR (McOD, 300 MHz) δ 7.53 (d, J=2.4 Hz, 1H), 7.45 (d, J=8.0 Hz, 2H), 7.43 (d, J=8.0 Hz, 2H), 7.24 (d, J=8.0 Hz, 2H), 7.22 (d, J=8.0 Hz, 2H), 7.09 (dd, J=8.8, 2.4 Hz, 1H), 6.92 (d, J=8.8 Hz, 1H). 4.91 (s, 2H), 2.66 (t, J=7.7 Hz, 2H), 2.13 (s, 2H), 1.64 (m, 2H), 1.40 (m, 2H), 1.01 (s, 9H), 0.97 (t, J=7.5 Hz, 3H). M− (ESI): 496.4. HPLC, Rt: 5.56 min (Purity: 100%).

reactant | N-{4-[(4-butylphenyl)ethynyl]benzyl}-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)-3,3-dimethylbutanamide | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C(CC(C)(C)C)=O)C2=CC3=C(OC(OC3=O)(C)C)C=C2)C=C1 | C35H39NO4
reactant | NaOH | 1M | [OH-].[Na+]
solvent | EtOH | CCO | C2H6O
product | 5-[{4-[(4-butylphenyl)ethynyl]benzyl}(3,3-dimethylbutanoyl)amino]-2-hydroxybenzoic acid | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C=2C=CC(=C(C(=O)O)C2)O)C(CC(C)(C)C)=O)C=C1 | C32H35NO4
